US07674801B2
Isopropyl 2-amino-4-(hydroxymethyl)-1,3-thiazole-5-carboxylate
A solution of 5 g (37 mmol) of 3-chlorofuran-2,4(3H,5H)-dione and 3.7 g (49 mmol) thiourea in 30 mL isopropanol was heated at refluxed overnight. Solvent was removed and the residue was dissolved in water. The solution was treated with aqueous Na2CO3 precipitating solids. The solids were filtered, washed with water and dried in vacuum. NMR: 1.2 (d, 6H), 4.55 (d, 2H), 4.9 (t, 1H), 5.0 (m, 1H), 7.7 (s, 2H).

reactant | 3-chlorofuran-2,4(3H,5H)-dione | 37 mmol, 5 g | ClC1C(OCC1=O)=O | C4H3ClO3
reactant | thiourea | 49 mmol, 3.7 g | NC(=S)N | CH4N2S
reactant | isopropanol | 30 mL | C(C)(C)O | C3H8O
product | Isopropyl 2-amino-4-(hydroxymethyl)-1,3-thiazole-5-carboxylate | NC=1SC(=C(N1)CO)C(=O)OC(C)C | C8H12N2O3S
